US09120728B2
1-(3-fluoro-5-methylsulfonyl-phenoxy)propan-2-one
1-Chloroacetone (95%, 2.66 g, 27.34 mmol) was added to a stirred solution of 3-fluoro-5-methylsulfonyl-phenol (80%, 1.3 g, 5.46 mmol) and potassium carbonate (2.26 g, 16.40 mmol) in dry dimethyl formamide (10 ml), the mixture was heated to 120° C. for 20 minutes, the mixture was allowed to cool to ambient temperature and water (100 ml) was added. The aqueous phase was extracted with ethyl acetate (3×100 ml), the combined organic phase was washed with LiCl (5% aqueous solution, 4×50 ml), brine (50 ml) and dried with Na2SO4 and evaporated. Purification on flash chromatography (isooctane:ethyl acetate 1:0 to 3:2). 0.905 g, 67%. MS m/z (relative intensity, 70 eV) 246 (M+, 79), 204 (55), 203 (bp), 141 (30), 94 (67).

reactant | 1-Chloroacetone | 27.34 mmol, 2.66 g | ClCC(=O)C | C3H5ClO
reactant | 3-fluoro-5-methylsulfonyl-phenol | 5.46 mmol, 1.3 g | FC=1C=C(C=C(C1)S(=O)(=O)C)O | C7H7FO3S
reactant | potassium carbonate | 16.40 mmol, 2.26 g | C([O-])([O-])=O.[K+].[K+]
reactant | water | 100 ml | O | H2O
solvent | dimethyl formamide | 10 ml | CN(C=O)C | C3H7NO
product | 1-(3-fluoro-5-methylsulfonyl-phenoxy)propan-2-one | FC=1C=C(OCC(C)=O)C=C(C1)S(=O)(=O)C | C10H11FO4S
